Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fever, cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ ___ male originally from ___, with HIV 
disease, well controlled on Atripla, (CD4 of 247, viral load 80 
copies ___ ___, hepatitis B, and anxiety who presented 
to ___ on ___ with cough, fevers, and body aches.

___ the ED, initial VS were 100.8 (Tm 101.6), 108, 115/62, 18, 
97% on room air
Labs were significant for Na 129, WBC 31.8 (87 N, 6 band), 
lactate 2.0, u/a with neg leuks, sm blood, nitrite neg, 30 
protein, trace ketones, few bacteria
Imaging showed right lower lobe pneumonia and probable sequelae 
of prior granulomatous disease ___ the lung apices.
Blood cultures were drawn. Influenza PCR was  XX
 
Received Tylenol ___ mg PO, 2 L IVF (normal saline), 1 gram IV 
ceftriaxone, 500 mg azithromycin 
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports that for the past two 
days "he has felt like he has had the flu." He has had fevers, 
chills, body aches, abdominal pain, nausea and one episode of 
vomiting. Also notes cough, congestion and runny nose. Reports 
that cough is non productive. Sx have worsened. Most disturbed 
by his generalized achiness and feeling weak. Denies sick 
contacts. Has had recent decrease ___ appetite.

On ROS, he endorses some night sweats over the last few days. 
Has had mild h/a but denies neck stiffness. No changes ___ 
vision, dysphagia, diarrhea, constipation. No bloody or black 
stools. No pain with urination. No recent travel or bug bites. 
No joint pain. Does note that he has a rash on his neck which 
comes and goes and has had before. Also notes recent weight gain 
of about five pounds.
 
Past Medical History:
*Gathered from ___ as pt did not want to discuss his dx*
HIV INFECTION   
He reports this was diagnosed back ___ about
___. At that time, he was having shingles rash. He thinks his
CD4 nadir was around 100, but is not sure. Per his sister, he 
has had no history of other OIs. He was started on Atripla 
around that time andthis is the only medication he has ever 
taken for his HIV.
PVLs at CHA always undetectable (< 75) but then
switched to a more sensitive assay ___. VL ___ was 41. 
HEPATITIS B CARRIER   
+HepBsAg, +HepBcAb, eAg neg, eAb +, HBL VL<20 
PULMONARY TUBERCULOSIS   
at age ___ ___ ___, treated for unclear duration with unclear 
meds 
CRUSH INJURY RIGHT MIDDLE FINGER   
___ at work, s/p pin ___ tip of RMF ___, now ___ splint
 
Social History:
___
Family History:
Mother- ___ cancer
Father- Liver cancer

 
Physical Exam:
Physical exam upon admission:
VS -  99.8 97/67 108 24 99 room air
GENERAL: young male, no acute distress 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
mouth appears dry, no erythema or exudate present, no white 
plaque
NECK: nontender supple neck, no LAD 
CARDIAC: tachycardic, s1 and s2 present, no m/r/g  
LUNG: Rhonci heard along right base and mid lung field  
ABDOMEN: nondistended, +BS, mild tenderness diffusely, no 
rebound or guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, strength ___ ___ ___ and ___  
SKIN: warm and well perfused, several hyperpigmented macules 
with excoriation along the back of the neck

Physical exam upon discharge:
VS -  98.8 83 122/81 18 95 r/a
Tele- Alarm for sinus tach to 130 x1
GENERAL: young male, no acute distress 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
mouth appears dry, no erythema or exudate present, no white 
plaque
NECK: nontender supple neck, no LAD 
CARDIAC: tachycardic, s1 and s2 present, no m/r/g  
LUNG: Coarse breath sounds along right base and mid lung field 
(greatly improved)
ABDOMEN: nondistended, +BS, mild tenderness diffusely, no 
rebound or guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
SKIN: warm and well perfused, several hyperpigmented macules 
with excoriation along the back of the neck
 
Pertinent Results:
LABS UPON ADMISSION:
___ 02:35PM BLOOD WBC-31.8*# RBC-4.21* Hgb-13.7 Hct-38.8* 
MCV-92 MCH-32.5* MCHC-35.3 RDW-13.2 RDWSD-44.6 Plt ___
___ 02:35PM BLOOD Neuts-87* Bands-6* Lymphs-3* Monos-4* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-29.57* 
AbsLymp-0.95* AbsMono-1.27* AbsEos-0.00* AbsBaso-0.00*
___ 02:35PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 02:35PM BLOOD Glucose-88 UreaN-14 Creat-0.8 Na-129* 
K-4.7 Cl-94* HCO3-23 AnGap-17
___ 02:35PM BLOOD ALT-37 AST-60* AlkPhos-85 TotBili-1.3
___ 07:12AM BLOOD Calcium-7.9* Phos-1.0* Mg-2.2

___:33PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-4* pH-6.5 Leuks-NEG
___ 01:33PM URINE Color-Yellow Appear-Hazy Sp ___
___ 01:33PM URINE RBC-11* WBC-3 Bacteri-FEW Yeast-NONE 
Epi-<1

LABS UPON DISCHARGE:
___ 08:10AM BLOOD WBC-15.3* RBC-3.82* Hgb-12.2* Hct-34.6* 
MCV-91 MCH-31.9 MCHC-35.3 RDW-13.4 RDWSD-44.3 Plt ___
___ 08:10AM BLOOD Neuts-83.9* Lymphs-8.4* Monos-6.3 
Eos-0.5* Baso-0.3 NRBC-0.1* Im ___ AbsNeut-12.82*# 
AbsLymp-1.28 AbsMono-0.97* AbsEos-0.07 AbsBaso-0.05
___ 08:10AM BLOOD Glucose-95 UreaN-10 Creat-0.4* Na-136 
K-3.3 Cl-103 HCO3-20* AnGap-16
___ 08:10AM BLOOD Calcium-7.9* Phos-2.0* Mg-1.9

MICRO:
___ 1:33 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    <10,000 organisms/ml. 

___ Blood culture pending
___ Strep antigen pending

___ 9:18 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, ___
      infected patients the excretion of antigen ___ urine may 
vary. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 

 
Brief Hospital Course:
___ male originally from ___, with HIV (on Atripla, 
CD4 of 247, viral load 80 copies ___ ___ and anxiety who 
presented to ___ on ___ with cough, fevers, and body aches, 
meeting criteria for sepsis with CAP

#Sepsis 
#Cough/fever/body aches
#Community acquired pneumonia:
Pt met criteria for sepsis given fever, tachycardia, RR, and 
known source as lungs upon admission.
Differential diagnosis for lung disease ___ HIV is broad and 
includes bacterial pna, viral pna, TB, Kaposi sarcoma, fungal 
pna, CMV, non Hodgkin lymphoma, and lymphocytic interstitial 
pneumonitis. Less likely CMV, Kaposi sarcoma and PCP ___ CD4 
count. Flu negative. Legionella negative. Less likely malignancy 
given lack of atypical cells and preservation of other cell 
counts. Given consolidation, cough, fever, this is most likely a 
community acquired bacterial pneumonia. Sputum culture revealed 
gram positive cocci ___ pairs and clusters indicating strep and 
staph. Pt was initially treated with ceftriaxone and 
azithromycin and then transitioned to PO cefpodoxime and 
azithromycin to complete five day course of antibiotics for CAP 
(end date ___. Radiology recommended 6 week f/u for resolution 
of consolidation

#HIV
Pt follows with Dr. ___ ___ ID at ___. Currently on atripla. 
Most recent CD4 count of 247 and viral load of 80 copies. Last 
seen ___ ___ of this year. Per note ___ ___, there was some 
discussion regarding alteration of medications because of the 
patient's chronic anxiety and depression. 
--Continue HART regimen- atripla
--F/u with ID upon discharge

#Hyponatremia
Initially upon admission. Improved with IVF and was thought to 
be related to hypovolemia ___ illness.
 
#HIV
Continued on atripla

#Hematuria
Noted to have hematuria on admission u/a.
-Repeat u/a as an outpatient.

#Pulmonary nodules
Pt was noted to have symmetric calcified nodules ___ the upper 
lobes seen on previous studies. Per our OMR, pt has a history of 
pulmonary tuberculosis at age ___ ___ ___, he was treated with 
medications at that time. Pt currently endorsing cough, but no 
blood present ___ the cough, no recent change ___ weight and no 
night sweats. Suspicion for TB is low.

#Hepatitis B
He has a history of surface antigen positivity.He is E antigen 
negative and E antibody positive with an undetectable HBV viral 
load.  He remains on tenofovir and emtricitabine as part of his 
regimen nonetheless. has had hep a vaccine.
--Continued current HART regimen

#Anxiety
Pt reports that he has anxiety and takes clonazepam every other 
day. I was unable to find Rx for this medication. He was treated 
with clonazepam .5 mg PO daily PRN for anxiety. 

**Transitional issues**
-Medications added:
--Azithromycin 250 mg daily, end date ___
--Cefpodoxime 400 mg PO BID, end date ___
--Valacyclvoir, 1000 mg q 8 hours, end date ___
-Patient was noted to have hematuria. Should have repeat u/a 
upon discharge and possible CT urogram.
-Recommend repeat CXR 6 weeks after treatment per radiology
-Pt reported taking clonazepam prior to admission, but I could 
not find evidence of this using PMP or OMR's historical 
medication functio

>30 minutes spent on coordination of care and counseling on day 
of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 
2. ClonazePAM Dose is Unknown  PO QHS:PRN anxiety 
3. ATRIPLA (efavirenz-emtricitabin-tenofov) ___ mg oral 
DAILY 
4. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Azithromycin 250 mg PO Q24H Duration: 4 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0
2. Cefpodoxime Proxetil 400 mg PO Q12H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice daily Disp 
#*10 Tablet Refills:*0
3. ValACYclovir 1000 mg PO Q8H 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth every 8 hours 
Disp #*21 Tablet Refills:*0
4. ATRIPLA (efavirenz-emtricitabin-tenofov) ___ mg oral 
DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Community acquired pneumonia

Secondary diagnoses:
HIV
Hematuria
Hepatitis B
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Why did I come to the hospital?
-You came because of fevers, chills, body aches and cough

What happened while I was ___ the hospital?
-We found that you have a pneumonia or an infection ___ your 
lungs
-We treated you with antibiotics
-You also had a shingles flare and we gave you medicine for this

What should I do when I leave the hospital?
-Continue to take your medications as prescribed 
-You will also need to take antibiotics for your 
pneumonia-azithromycin (a medication that you will take once a 
day starting on ___ and ending on ___ and Cefpodoxime (a 
medication that you will take twice daily starting ___ the 
evening on ___ and ending on ___
-We also prescribed you valacyclovir, which is a medication you 
should take three times per day for the next 7 days.

Best,
Your ___ team
 
Followup Instructions:
___